US07157604B2
A solution of 5-amino-2-butyl-6-fluoro-1-indanone (5.14 g, 23.2 mmol) in N,N-dimethylformamide (23 mL) was placed under a nitrogen atmosphere and treated with N-chlorosuccinimide (3.2 g, 24 mmol). After stirring at room temperature for 3 hours, the reaction mixture was partitioned between EtOAc and water. The organic portion was washed with water and brine, dried over MgSO4, filtered, and evaporated under vacuum to an orange solid (6.5 g). The crude product was purified by flash chromatography on a Biotage 40M KP-Sil column, eluting with 9:1 hexanes-EtOAc. The product containing fractions were evaporated under vacuum to afford 5-amino-2-butyl-4-chloro-6-fluoro-1-indanone (5.2 g, 88%) as a yellow solid.

reactant | 5-amino-2-butyl-6-fluoro-1-indanone | 23.2 mmol, 5.14 g | NC=1C=C2CC(C(C2=CC1F)=O)CCCC | C13H16FNO
reactant | N-chlorosuccinimide | 24 mmol, 3.2 g | ClN1C(CCC1=O)=O | C4H4ClNO2
solvent | N,N-dimethylformamide | 23 mL | CN(C=O)C | C3H7NO
product | 5-amino-2-butyl-4-chloro-6-fluoro-1-indanone | 5.2 g, 88% | NC=1C(=C2CC(C(C2=CC1F)=O)CCCC)Cl | C13H15ClFNO
